US05359098
6-[6-(4-Hydroxypiperidinyl)hexoxy]-2-(4-pyridyl)-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by the method of Example 11 from 2',5'-dihydroxyacetophenone, 4-pyridylcarbonyl chloride, and 4-hydroxypiperidine: mp 165°-166° C.

reactant | 2',5'-dihydroxyacetophenone | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | 4-pyridylcarbonyl chloride | N1=CC=C(C=C1)C(=O)Cl | C6H4ClNO
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 6-[6-(4-Hydroxypiperidinyl)hexoxy]-2-(4-pyridyl)-4H-1-benzopyran-4-one hydrochloride | Cl.OC1CCN(CC1)CCCCCCOC=1C=CC2=C(C(C=C(O2)C2=CC=NC=C2)=O)C1 | InChI=1S/C25H30N2O4.ClH/c28-20-9-14-27(15-10-20)13-3-1-2-4-16-30-21-5-6-24-22(17-21)23(29)18-25(31-24)19-7-11-26-12-8-19;/h5-8,11-12,17-18,20,28H,1-4,9-10,13-16H2;1H
